US07544697B2
A solution of trifluoroacetic anhydride (13.5 mL, 95.4 mmol) in dichloromethane (84 mL) was added over 15 minutes to a 0° C. solution of 5-butyl-1-tert-butyl-1H-pyrazole-3-carboxamide (18.7 g, 86.7 mmol) and triethylamine (36.3 mL, 260 mmol) in dichloromethane (167 mL). The reaction was allowed to stir for 10 minutes before the ice bath was removed. The reaction was stirred at ambient temperature for 1 hour and then 2 M aqueous sodium carbonate was added. The mixture was transferred to a separatory funnel and was extracted with dichloromethane three times. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, eluted with 20% ethyl acetate in hexanes). The appropriate fractions were combined, dried over magnesium sulfate, and concentrated under reduced pressure to yield 11.00 g of 5-butyl-1-tert-butyl-1H-pyrazole-3-carbonitrile as an orange oil.

reactant | trifluoroacetic anhydride | 95.4 mmol, 13.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-butyl-1-tert-butyl-1H-pyrazole-3-carboxamide | 86.7 mmol, 18.7 g | C(CCC)C1=CC(=NN1C(C)(C)C)C(=O)N | C12H21N3O
reactant | triethylamine | 260 mmol, 36.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 84 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 167 mL | ClCCl | CH2Cl2
product | 5-butyl-1-tert-butyl-1H-pyrazole-3-carbonitrile | 11.00 g | C(CCC)C1=CC(=NN1C(C)(C)C)C#N | C12H19N3
